US07576215B2
3-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}-2-BENZOFURAN-1 (3H)-ONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 3-Bromo-3H-isobenzofuran-1-one following the procedure of Example 478: MS (ESI) m/z 526; HRMS: calcd for C31H18F3NO4+H+, 526.12607; found (ESI, [M+H]+), 526.1287.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 3-Bromo-3H-isobenzofuran-1-one | BrC1OC(C2=CC=CC=C12)=O | C8H5BrO2
product | 3-{3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}-2-BENZOFURAN-1 (3H)-ONE | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(OC2OC(C3=C2C=CC=C3)=O)C=CC1)C(F)(F)F | C31H18F3NO4
